US07666878B2
To a stirred solution of (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester (0.78 g, 3.8 mmol) in dry DMF (10 ml) is added dropwise, BEMP (1.21 ml, 4.2 mmol) over two minutes. After stirring at room temperature for 1 hour, the resulting solution is treated with 4-nitrobenzyl bromide (1.0 g, 4.6 mmol) in one portion and stirring continues overnight. The reaction is concentrated in vacuo with toluene and the resulting oil is purified by chromatography on silica eluting with iso-hexane/ethyl acetate (3:1) to yield [2-methyl-1-(4-nitro-benzyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester. (MH+ 340)

reactant | (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | 3.8 mmol, 0.78 g | COC(CC1=C(NC2=NC=CC=C21)C)=O | C11H12N2O2
reactant | BEMP | 4.2 mmol, 1.21 ml | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | 4-nitrobenzyl bromide | 4.6 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | [2-methyl-1-(4-nitro-benzyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)CC2=CC=C(C=C2)[N+](=O)[O-])C)=O | C18H17N3O4
